US07329658B2
Preparation of 7-(2-Chlorophenyl)-8-(4-chlorophenyl)-4-(1-ethoxyvinyl)-2-methylpyrazolo[1,5-a][1,3,5]triazine (14A-1)
To a mixture of 4-chloro-7-(2-chlorophenyl)-8-(4-chlorophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazine (I-2A-1b; 100 mg, 0.257 mmol) and tetrakis(triphenylphosphine)palladium(0) (15 mg, 0.013 mmol) in DMF (0.8 ml) was added tributyl(1-ethoxyvinyl)tin (130 mg, 0.36 mmol) in DMF (1.5 ml). The reaction was degassed (3×) by pulling a vacuum and refilling with nitrogen. After heating at 100° C. for 1 hour under nitrogen, the reaction was cooled and then extracted from water with ethyl acetate. The organic layer was washed with ½ saturated brine and then brine. After drying (MgSO4), the mixture was concentrated, in vacuo, and purified on a Biotage™ Flash 12M column using 10% ethyl acetate in hexanes to afford product 14A-1 as a solid (53 mg, 49%): +APcI MS (M+1) 425.1; 1H NMR (400 MHz, CD3OD) δ 7.50-7.38 (m, 6H), 7.27 (d, J=8.7 Hz, 2H), 6.20 (d, J=3.3 Hz, 1H), 5.19 (d, J=3.3 Hz, 1H), 4.05 (q, J=7.1 Hz, 2H), 2.75 (s, 3H), 1.45 (t, J=7.1 Hz, 3H).

reactant | 4-chloro-7-(2-chlorophenyl)-8-(4-chlorophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazine | 0.257 mmol, 100 mg | ClC1=NC(=NC=2N1N=C(C2C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl)C | C18H11Cl3N4
reactant | tributyl(1-ethoxyvinyl)tin | 0.36 mmol, 130 mg | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | DMF | 0.8 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.013 mmol, 15 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-(2-Chlorophenyl)-8-(4-chlorophenyl)-4-(1-ethoxyvinyl)-2-methylpyrazolo[1,5-a][1,3,5]triazine | 53 mg, 49% | ClC1=C(C=CC=C1)C1=NN2C(N=C(N=C2C(=C)OCC)C)=C1C1=CC=C(C=C1)Cl | C22H18Cl2N4O
